US04526893
A mixture consisting of 77 g of 2-(4-nitrophenoxy)-1-methylethyl-p-toluenesulfonate, 45 g of potassium salt of phthalimide and N,N-dimethylformamide was heated at 110° C. for 3 hr. with stirring. The reaction mixture was extracted with ethyl acetate; the extract was washed consecutively with water and saturated saline, and dried with anhydrous sodium sulfate. The solvent was thereafter distilled off under reduced pressure; the residue was dissolved in ethanol and left standing overnight in refrigirator. Crystals thus isolated were filtered off, dried, and yielded 38.5 g of N-{2-(4-nitrophenoxy)-1-methylethyl}phthalimide in crystalline form.

reactant | 2-(4-nitrophenoxy)-1-methylethyl-p-toluenesulfonate | 77 g | [N+](=O)([O-])C1=CC=C(OC2=C(C=CC(=C2C(C)C)S(=O)(=O)[O-])C)C=C1
reactant | potassium | 45 g | [K] | K
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-{2-(4-nitrophenoxy)-1-methylethyl}phthalimide | 38.5 g | [N+](=O)([O-])C1=CC=C(OCC(C)N2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C17H14N2O5
